US07276505B2
Preparation of N-benzyl-4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzamide
4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid (52 mg, 0.17 mmol) was mixed with DMF (2 ml). Diisopropylethylamine (22 mg, 29 μl, 0.17 mmol) and benzylamine (18.2 mg, 18.6 μl, 0.17 mmol) were added followed by HBTU (64.5 mg, 0.17 mmol). The mixture was stirred at room temperature for 4 h. The product was purified by preparative HPLC. The title compound was isolated as a red solid (6.6 mg, 0.02 mmol, 10%). LCMS: m/z 396 [M+H]+.

reactant | 4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid | 0.17 mmol, 52 mg | O=C1N(NC2=C1N=NC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C16H10N4O3
reactant | Diisopropylethylamine | 0.17 mmol, 29 μl, 22 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzylamine | 0.17 mmol, 18.6 μl, 18.2 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | HBTU | 0.17 mmol, 64.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-benzyl-4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzamide | C(C1=CC=CC=C1)NC(C1=CC=C(C=C1)N1NC2=C(N=NC=3C=CC=CC23)C1=O)=O | C23H17N5O2
